US05268386
Ethyl 2-{(5-methoxy-8-nitro-3,4-dihydro-4-oxospiro [2H-1-benzopyran-2,1'-cyclohexan]-7-yl)oxy}acetate
Ethyl 2-{(5-methoxy-3,4-dihydro-4-oxospiro[2H-1-benzopyran-2,1'-cyclohexan]-7-yl) oxy}acetate prepared in Preparation 49) (1.3 g, 3.92 mmol) is added by portions to fuming nitric acid (d=1.50, 10 ml) at -60° C. with stirring. After one hour stirring at -60° to -40° C., the reaction mixture is poured into ice-cold water. The mixture is extracted with diethyl ether. The ether layer is separated, washed with water and then aqueous sodium bicarbonate, dried and concentrated. The residue is washed with diethyl ether. Recrystallization from a mixture of ethyl acetate and hexane gives the title compounds as a crystalline solid (1.05 g, yield 74.2%, m.p.=142°-143° C.).

reactant | Ethyl 2-{(5-methoxy-3,4-dihydro-4-oxospiro[2H-1-benzopyran-2,1'-cyclohexan]-7-yl) oxy}acetate | COC1=CC(=CC2=C1C(CC1(CCCCC1)O2)=O)OCC(=O)OCC | C19H24O6
reactant | nitric acid | 10 ml | [N+](=O)(O)[O-] | HNO3
product | Ethyl 2-{(5-methoxy-8-nitro-3,4-dihydro-4-oxospiro [2H-1-benzopyran-2,1'-cyclohexan]-7-yl)oxy}acetate | 1.05 g, yield 74.2% | COC1=CC(=C(C2=C1C(CC1(CCCCC1)O2)=O)[N+](=O)[O-])OCC(=O)OCC | C19H23NO8
